US07285557B2
tert-butyl (2S,4S)-4-fluoro-2-(hydroxymethyl)-1-pyrrolidinecarboxylate
To a THF (20 mL) solution of 1-tert-butyl 2-methyl (2S,4S)-4-fluoro-1,2-pyrrolidinedicarboxylate (950 mg, 3.9 mmol) at 0° C., 5.8 mL 2M LiBH4 (11.6 mmol, 3 eq) was added slowly. The resulting mixture was left stirring overnight while allowing the temperature to warm up to room temperature.

reactant | 1-tert-butyl 2-methyl (2S,4S)-4-fluoro-1,2-pyrrolidinedicarboxylate | 3.9 mmol, 950 mg | F[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)OC | C11H18FNO4
reactant | LiBH4 | 11.6 mmol, 2M, 5.8 mL, 3 eq | [Li+].[BH4-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl (2S,4S)-4-fluoro-2-(hydroxymethyl)-1-pyrrolidinecarboxylate | F[C@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C10H18FNO3
